US04246270
Sodium hydride (0.25 g of 50% mineral oil emulsion washed twice with tetrahydrofuran, 0.0050 mole) in 10 ml tetrahydrofuran was added portionwise at ambient temperature to a well stirred solution of 1.7 g (0.0053 mole) 3-fluoro-7-chloro-5-(2-chlorophenyl)-1,3-dihydro-2H-1,4-benzodiazepin-2-one and 5.6 g (0.039 mole) methyl iodide in 50 ml tetrahydrofuran under nitrogen. The solution was stirred 2 hr at room temperature, then poured into 100 ml water. The product was extracted with methylene chloride, the extract dried over MgSO4 and the solvent evaporated, yielding a tan solid. The crude product was dissolved in benzene and allowed to crystallize giving a white solid; a second crop was obtained by addition of n-hexane, yielding a total of 1.1 g of 3-fluoro-7-chloro-5-(2-chlorophenyl)-1,3-dihydro-1-methyl-2H-1,4-benzodiazepin-2-one: mp 204°-205°; 1H nmr (DMSO-d6) δ 7.6 ppm (m, 6 H), δ 7.0 ppm (m, 1H), δ 5.94 ppm (d, 56 Hz, 1H), δ 3.45 ppm (s, 3H); 19F nmr (DMSO-d6) δ -161.8 ppm (d, J=56 Hz).

reactant | 3-fluoro-7-chloro-5-(2-chlorophenyl)-1,3-dihydro-2H-1,4-benzodiazepin-2-one | 0.0053 mole, 1.7 g | FC1C(NC2=C(C(=N1)C1=C(C=CC=C1)Cl)C=C(C=C2)Cl)=O | C15H9Cl2FN2O
reactant | methyl iodide | 0.039 mole, 5.6 g | CI | CH3I
reactant | water | 100 ml | O | H2O
reactant | n-hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 3-fluoro-7-chloro-5-(2-chlorophenyl)-1,3-dihydro-1-methyl-2H-1,4-benzodiazepin-2-one | 1.1 g | FC1C(N(C2=C(C(=N1)C1=C(C=CC=C1)Cl)C=C(C=C2)Cl)C)=O | C16H11Cl2FN2O
